US03932432
5,5-Dimethyl-8-(4-p-Fluorophenyl-1-Methylbutyl)-2-(Cyclobutanecarbonyl)-10-Hydroxy-1,2,3,4-Tetrahydro-5H[1]Benzopyrano[4,3-c]Pyridin-10-ol
5,5-Dimethyl-8-(4-p-fluorophenyl-1-methylbutyl)-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano[4,3-c]pyridin-10-ol (1 mole) and cyclobutanecarbonyl chloride (1 mole) with triethylamine (1 mole) in dimethylformamide, stirring 16 hours at 25°C gave the desired product.

reactant | 5,5-Dimethyl-8-(4-p-fluorophenyl-1-methylbutyl)-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano[4,3-c]pyridin-10-ol | 1 mole | CC1(OC=2C(C(C=C(C2)C(CCCC2=CC=C(C=C2)F)C)(O)O)=C2CNCCC21)C | C25H32FNO3
reactant | cyclobutanecarbonyl chloride | 1 mole | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | triethylamine | 1 mole | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,5-Dimethyl-8-(4-p-Fluorophenyl-1-Methylbutyl)-2-(Cyclobutanecarbonyl)-10-Hydroxy-1,2,3,4-Tetrahydro-5H[1]Benzopyrano[4,3-c]Pyridin-10-ol | CC1(OC=2C(C(C=C(C2)C(CCCC2=CC=C(C=C2)F)C)(O)O)=C2CN(CCC21)C(=O)C2CCC2)C | C30H38FNO4
